US07829560B2
N-[4-({2-[(2R,6S)-2,6-Dimethylmorpholin-4-yl]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-piperidin-1-ylbenzamide (Compound B416).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and (2R,6S)-2,6-dimethylmorpholine according to conditions described in general procedure C.

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | (2R,6S)-2,6-dimethylmorpholine | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
product | N-[4-({2-[(2R,6S)-2,6-Dimethylmorpholin-4-yl]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-piperidin-1-ylbenzamide | C[C@@H]1CN(C[C@@H](O1)C)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C32H34FN5O3
